US05576340
2-[4-(2 -Oxopropoxy)phenyl]ethyl acetate
1.96 g of acetic anhydride were added, whilst ice-cooling, to a mixture of 3.1 g of 2-[4-(2-oxopropoxy)phenyl]ethanol (prepared as described in Preparation 7), 50 ml of anhydrous tetrahydrofuran and 2.53 g of pyridine, and the resulting mixture was stirred at room temperature for 3.5 hours. At the end of this time, 12.5 g of pyridine and 9.8 g of acetic anhydride were added, whilst ice-cooling, and the mixture was allowed to stand at room temperature for 1 day, after which the solvent was removed by distillation under reduced pressure, and the residue was mixed with water and then extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under reduced pressure, to give the title compound having an Rf=0.71 (thin layer chromatography over silica gel, using a 1:1 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | acetic anhydride | 1.96 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-[4-(2-oxopropoxy)phenyl]ethanol | 3.1 g | O=C(COC1=CC=C(C=C1)CCO)C | C11H14O3
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | acetic anhydride | 9.8 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 12.5 g | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 2.53 g | N1=CC=CC=C1 | C5H5N
product | 2-[4-(2 -Oxopropoxy)phenyl]ethyl acetate | C(C)(=O)OCCC1=CC=C(C=C1)OCC(C)=O | C13H16O4
